US07709471B2
2-chloro-5-methoxy-4-nitro-benzoic acid
1-chloro-4-methoxy-2-methyl-5-nitro-benzene (APIN; 1 g, 4.96 mmol) was suspended in water (100 mL), potassium permanganate (3.14 g, 19.84 mmol) was added and the mixture diluted further with water (140 mL). The mixture was very slowed heated up to reflux over a 2 hour period and then stirred at reflux for 4 hours then allowed to cool to room temperature overnight with stirring. After 18 hours the mixture was reheated to 80° C. and filtered hot, the manganese filter cake was washed with boiling water (100 mL), then the aqueous filtrate was treated with a couple of drops of sodium metabisulfite solution and the permanganate colour was removed to give a yellow solution. The solution was acidified to pH 2 with concentrated hydrochloric acid and partially evaporated down to a volume of (200 mL) and extracted with EtOAc (2×100 mL). Combined organic extracts were washed with brine, dried (MgSO4) and evaporated to yield the title compound as a yellow solid. (752 mg, 65%).

reactant | 1-chloro-4-methoxy-2-methyl-5-nitro-benzene | 4.96 mmol, 1 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C8H8ClNO3
reactant | potassium permanganate | 19.84 mmol, 3.14 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 100 mL | O | H2O
reactant | water | 140 mL | O | H2O
product | 2-chloro-5-methoxy-4-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])OC | C8H6ClNO5
